US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(6-oxo-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)carbonyl]piperazine
In a 300-mL egg-plant type flask was charged l-[(5-chloroindol-2-yl)sulfonyl]-4-[(6,6-ethylenedioxy-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)carbonyl]piperazine (740 mg), followed by dissolution in methanol (150 mL). To the resulting solution was added p-toluenesulfonic monohydrate (100 mg), followed by heating under reflux. After 16 hours, the reaction was terminated and the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (silica gel: 75 g, ethyl acetate:hexane=1:1), whereby the title compound (110 mg) was obtained as a pale yellow amorphous solid.

reactant | l-[(5-chloroindol-2-yl)sulfonyl]-4-[(6,6-ethylenedioxy-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)carbonyl]piperazine | 740 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC2=C(N1)CCC1(C2)OCCO1 | C22H23ClN4O5S2
solvent | methanol | 150 mL | CO | CH4O
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(6-oxo-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)carbonyl]piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC2=C(N1)CCC(C2)=O | C20H19ClN4O4S2
